US05192781
1.7 g of 2-methyl-5-(4-nitrobenzyl)-4-pentylthiazole (5.6 mmol) in 100 ml of ethanol are hydrogenated according to Example 25 to give 1.4 g of 2-methyl-5-(4-aminobenzyl)-4-pentylthiazole in the form of a colorless oil.

reactant | 2-methyl-5-(4-nitrobenzyl)-4-pentylthiazole | 5.6 mmol, 1.7 g | CC=1SC(=C(N1)CCCCC)CC1=CC=C(C=C1)[N+](=O)[O-] | C16H20N2O2S
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2-methyl-5-(4-aminobenzyl)-4-pentylthiazole | 1.4 g | CC=1SC(=C(N1)CCCCC)CC1=CC=C(C=C1)N | C16H22N2S
